US09193728B2
Preparation of 2-methyl-N-(pyridin-4-ylmethyl)-2,3,4,5-tetrahydro-1H-pyrido[4,3-b]indol-6-amine
6-Chloro-2,3,4,5-tetrahydro-2-methyl-1H-pyrido[4,3-b]indole (0.5 g, 2.27 mmol), sodium tert-butoxide (1.30 g, 1.36 mmol), palladium acetate (0.101 g, 0.453 mmol) and 2-di-tert-butyl-phosphino-2′-4′-6′-triisopropyl-biphenyl (0.192 g, 0.45 mmol) were mixed in a reaction bottle which was evacuated and back filled with nitrogen for 5 min. Dry toluene (3 mL) was added under a nitrogen atmosphere. (Pyridin-4-yl)methanamine (291 mg, 2.72 mmol) was added and the mixture was heated at 85° C. overnight. The reaction mass was filtered and washed with EtOAc (2×25 mL). The filtrate was concentrated under vacuum and the residue purified on neutral alumina using 0-10% MeOH:EtOAc as eluent. Yield: 180 mg (freebase).

reactant | 6-Chloro-2,3,4,5-tetrahydro-2-methyl-1H-pyrido[4,3-b]indole | 2.27 mmol, 0.5 g | ClC1=CC=CC=2C3=C(NC12)CCN(C3)C | C12H13ClN2
reactant | sodium tert-butoxide | 1.36 mmol, 1.30 g | CC(C)([O-])C.[Na+]
reactant | (Pyridin-4-yl)methanamine | 2.72 mmol, 291 mg | N1=CC=C(C=C1)CN | C6H8N2
catalyst | palladium acetate | 0.453 mmol, 0.101 g | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | 2-methyl-N-(pyridin-4-ylmethyl)-2,3,4,5-tetrahydro-1H-pyrido[4,3-b]indol-6-amine | CN1CC2=C(NC3=C(C=CC=C23)NCC2=CC=NC=C2)CC1 | C18H20N4
